US03996159
2-Aminomethyl-5-chloro-3-phenylbenzofuran hydrochloride
Treat 2.0 g. 2-cyano-5-chloro-3-phenylbenzofuran (0.008 mole) in 30 ml of tetrahydrofuran with 18 ml of borane in tetrahydrofuran (1 m solution). Reflux for 2 hours. Cool, add 10 ml of 10% hydrochloric acid and reflux for 1/2 hour. Evaporate the solution to dryness. Dissolve the residue in 50 ml of ethanol. Add 30 ml of ethanol saturated with hydrogen chloride. Dry the precipitate obtained to yield the title compound; m.p. 254°-256°.

reactant | 2-cyano-5-chloro-3-phenylbenzofuran | 0.008 mole | C(#N)C=1OC2=C(C1C1=CC=CC=C1)C=C(C=C2)Cl | C15H8ClNO
reactant | borane | 18 ml | B | BH3
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 2-Aminomethyl-5-chloro-3-phenylbenzofuran hydrochloride | Cl.NCC=1OC2=C(C1C1=CC=CC=C1)C=C(C=C2)Cl | InChI=1S/C15H12ClNO.ClH/c16-11-6-7-13-12(8-11)15(14(9-17)18-13)10-4-2-1-3-5-10;/h1-8H,9,17H2;1H
